US04816454
6-(4-(2-Oxo-pyrrolidin-1-yl)-phenyl)-4,5-dihydro-3(2H)-pyridazinone
10.4 g (0.04 mole) of 4-(4-(2-oxo-pyrrolidin-1-yl)-phenyl)-4-oxo-butyric acid and 2 g (0.04 mole) of hydrazine hydrate are stirred under reflux in 100 ml of ethanol for 1 hour, the mixture is cooled and the product is filtered off with suction. The solid which has precipitated is stirred with sodium bicarbonate solution, filtered off with suction, washed and dried.

reactant | 4-(4-(2-oxo-pyrrolidin-1-yl)-phenyl)-4-oxo-butyric acid | 0.04 mole, 10.4 g | O=C1N(CCC1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C14H15NO4
reactant | hydrazine hydrate | 0.04 mole, 2 g | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-(4-(2-Oxo-pyrrolidin-1-yl)-phenyl)-4,5-dihydro-3(2H)-pyridazinone | O=C1N(CCC1)C1=CC=C(C=C1)C=1CCC(NN1)=O | C14H15N3O2
